US07291631B2
Using General Procedure B: Reaction of (4-amino-butyl)-carbamic acid tert-butyl ester and 2-acetyl pyrazine in MeOH with NaBH4 gave [4-(1-pyrazin-2-yl-ethylamino)-butyl]-carbamic acid tert-butyl ester (294 mg, 91%) as a colorless oil. 1H NMR (CDCl3) δ 1.44 (s, 9H), 1.50-1.57 (m, 4H), 1.59 (d, 3H, J=6.6 Hz), 2.38-2.43 (m, 1H), 2.51-2.59 (m, 1H), 3.08-3.14 (m, 2H), 3.08 (m, 2H), 3.91 (d, 1H, J=6.7 Hz), 4.72 (bs, 1H), 8.45 (d, 1H, J=2.5 Hz), 8.53 (d, 1H, J=2.6 Hz), 8.60 (s, 1H).

reactant | (4-amino-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCN)=O | C9H20N2O2
reactant | 2-acetyl pyrazine | C(C)(=O)C1=NC=CN=C1 | C6H6N2O
reactant | NaBH4 | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | [4-(1-pyrazin-2-yl-ethylamino)-butyl]-carbamic acid tert-butyl ester | 294 mg, 91% | C(C)(C)(C)OC(NCCCCNC(C)C1=NC=CN=C1)=O | C15H26N4O2
